US05965555
C1) 3-Butyl-1-(5-hydroxy-5-methyl-8-piperidino-6-octynyl)-7-propylxanthine
The compound was prepared as oily substance in 58% yield using 3-butyl-1-(5-oxohexyl)-7-propylxanthine and N-(2-propynyl)piperidine as in Example 6C1).

reactant | 3-butyl-1-(5-oxohexyl)-7-propylxanthine | C(CCC)N1C(N(C(C=2N(C=NC12)CCC)=O)CCCCC(C)=O)=O | C18H28N4O3
reactant | N-(2-propynyl)piperidine | C(C#C)N1CCCCC1 | C8H13N
product | 3-Butyl-1-(5-hydroxy-5-methyl-8-piperidino-6-octynyl)-7-propylxanthine | 58% yield | C(CCC)N1C(N(C(C=2N(C=NC12)CCC)=O)CCCCC(C#CCN1CCCCC1)(C)O)=O | C26H41N5O3
